US07741327B2
To a stirred mixture of (S)-2-[4-(2-chloro-6-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester (800 mg, 2.00 mmol) in tetrahydrofuran (10 mL) was added 0.5N lithium hydroxide solution (8.0 mL, 4.0 mmol). After addition was complete the mixture was stirred at 25° C. for 2 h. The reaction mixture was poured into water and diethyl ether and the layers were separated. The aqueous layer was made acidic with 1N aqueous hydrochloric acid and extracted with ethyl acetate (3×30 mL). The combined ethyl acetate fractions were washed with a saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to afford (S)-2-[4-(2-chloro-6-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid (740 mg, 97%) as a light brown solid: LR-ES-MS m/z calculated for C19H21ClFNO4 [M]+ 381, observed [M+H]+ 382.

reactant | (S)-2-[4-(2-chloro-6-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid methyl ester | 2.00 mmol, 800 mg | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=C(C=CC=C1F)Cl)=O)=O | C20H23ClFNO4
reactant | lithium hydroxide | 4.0 mmol, 0.5N, 8.0 mL | [OH-].[Li+]
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(2-chloro-6-fluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-3-cyclohexyl-propionic acid | 740 mg, 97% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC2CCCCC2)=O)C(=CC=C1)F | C19H21ClFNO4
